US08071592B2
7-chloro-6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one (118 mg, 0.386 mmol) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (90 mg, 0.425 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (257 mg, 1.16 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale yellow oil (83 mg; 43%) after column chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.386 mmol, 118 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=NC=C(C=C12)F)=O | C15H19FN4O2
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.16 mmol, 257 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 7-chloro-6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride | 83 mg, 43% | Cl.ClC1=CC=2OCC(NC2N=C1CNC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=NC=C(C=C12)F)=O)=O | InChI=1S/C23H24ClFN6O4.ClH/c24-15-6-20-23(29-21(33)12-35-20)28-17(15)9-26-7-13-10-30(11-19(13)32)3-4-31-18-5-14(25)8-27-16(18)1-2-22(31)34;/h1-2,5-6,8,13,19,26,32H,3-4,7,9-12H2,(H,28,29,33);1H/t13-,19+;/m0./s1
